US08222262B2
A mixture of 2,6-dichloropyrazine (10 g, 67.12 mmol), 4-chloroaniline (61.02 mmol) and sodium-tert-butoxide (7.78 g, 79.33 mmol) were dissolved in toluene (250 mL) and degassed with argon for 30 min. (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphtalene ((±)-BINAP) (2.51 g, 4.03 mmol) and palladium (II) acetate (452 mg, 2.01 mmol) were added. The mixture was degassed for further 15 minutes and stirred at 105° C. overnight. The reaction was quenched with water and the phases separated. The aqueous phase was extracted with ethyl acetate and the combined organic phases were dried over sodium sulphate, filtrated and concentrated in vacuo to give 21.48 g the crude product a dark oil. This oil was dissolved in tetrahydrofuran (250 mL), di-tert-butyl dicarbonate (40.36 g, 183.1 mmol) and 4-dimethylaminopyridine (1.5 g, 12.2 mmol) were added and the reaction mixture was heated to reflux for 1 hour. Aqueous saturated ammonium chloride was added and the aqueous phase was extracted with ethyl acetate (4×50 mL). The combined organic phases were dried over sodium sulphate, filtrated and concentrated in vacuo. The crude product was purified by flash chromatography with ethyl acetate-heptane as eluent to give N-(4-chloro-phenyl)-N-(6-chloro-pyrazin-2-yl)-2,2-dimethyl-propionamide (7.2 g, 34%) as an yellow solid.

reactant | 2,6-dichloropyrazine | 67.12 mmol, 10 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 4-chloroaniline | 61.02 mmol | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium-tert-butoxide | 79.33 mmol, 7.78 g | CC(C)([O-])C.[Na+]
reactant | (±)-2,2′-Bis(diphenylphosphino)-1,1′-binaphtalene | 4.03 mmol, 2.51 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | di-tert-butyl dicarbonate | 183.1 mmol, 40.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 12.2 mmol, 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | palladium (II) acetate | 2.01 mmol, 452 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(4-chloro-phenyl)-N-(6-chloro-pyrazin-2-yl)-2,2-dimethyl-propionamide | 7.2 g, 34% | ClC1=CC=C(C=C1)N(C(C(C)(C)C)=O)C1=NC(=CN=C1)Cl | C15H15Cl2N3O
